US08389508B2
To a solution of [(methyloxy)methyl](triphenyl)phosphonium chloride (2.1 g, 6.13 mmol) in Tetrahydrofuran (THF) (40 mL) stirred under nitrogen at 0° C. was added BuLi (4.08 mL, 6.53 mmol) dropwise. The reaction mixture was stirred at −78° C. for 30 min. Then a solution of 3-bromo-2-methylbenzaldehyde (D93) (1 g, 5.02 mmol) in Tetrahydrofuran (THF) (40 mL) was added dropwise. The reaction mixture was continuously stirred overnight. The reaction was quenched with sat. aq. NH4Cl. The aqueous layers were separated and extracted with EA for 3 times. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate. The dried solution was concentrated, and purified by ISCO column chromatography (PE: EA=8:2) to afford (E)-2-(3-bromo-2-methylphenyl)ethenyl methyl ether (D94) (938 mg) as a yellow oil. MS (ES): C10H11BrO requires 255.9. found 227 (M+H+)

reactant | [(methyloxy)methyl](triphenyl)phosphonium chloride | 6.13 mmol, 2.1 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | BuLi | 6.53 mmol, 4.08 mL | [Li]CCCC
reactant | 3-bromo-2-methylbenzaldehyde | 5.02 mmol, 1 g | BrC=1C(=C(C=O)C=CC1)C | C8H7BrO
solvent | Tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (E)-2-(3-bromo-2-methylphenyl)ethenyl methyl ether | 938 mg | CO\C=C\C1=C(C(=CC=C1)Br)C | C10H11BrO
